US08236801B2
B.1.3 Synthesis of (1R,3S,4S)-3-Formyl-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester
To a cold (−60° C.) solution of oxalyl chloride (60.8 mmol) in dry DCM (130 mL) is added dropwise DMSO (111 mmol) within 5 min. After 15 min a solution of (1R,3S,4S)-3-hydroxymethyl-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (50.7 mmol) in dry DCM (40 mL) is added dropwise within 15 min. Stirring is continued for 45 min at −55° C., then DIPEA (253 mmol; dried over 3 A molecular sieve) is added during 5 min. The reaction mixture is allowed to reach rt and diluted with water (250 mL). The layers are separated and the organic layer is washed twice with aq. citric acid (5%, 200 mL each) and twice with brine. The combined organic layers are dried over MgSO4 and concentrated in vacuo to give the desired product which is used without further purification. 1H-NMR (CDCl3, 2 rotamers): δ=1.31-1.37 (m, 1H); 1.44 & 1.50 (2 s, 9H); 1.58-1.84 (m, 5H); 2.78 & 2.81 (2 bs, 1H); 3.60 & 3.74 (2 bs, 1H); 4.26 & 4.41 (2 bs, 1H); 9.55 & 9.60 (2 bs, 1H).

reactant | oxalyl chloride | 60.8 mmol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 111 mmol | CS(=O)C | C2H6OS
reactant | (1R,3S,4S)-3-hydroxymethyl-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 50.7 mmol | C(C)(C)(C)OC(=O)N1[C@@H]2CC[C@H]([C@H]1CO)C2 | C12H21NO3
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 130 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | (1R,3S,4S)-3-Formyl-2-aza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]2CC[C@H]([C@H]1C=O)C2 | C12H19NO3
